US06254853B1
Succinic anhydride (14 g, 140 mmol) and dimethylaminopyridine (0.02 g, 0.16 mmol) were added to a solution of 2,6-diisopropylphenol (20.8 ml, 112 mmol) in triethylamine (50 ml) under nitrogen. After 16 hr at room temperature, solvents were removed under vacuum. The residue was dissolved in water and added to an iced solution of dilute hydrochloric acid. The precipitated product was filtered and recrystallized from ethanol-water to yield 25.0 g (80.2% yield) of 2,6-diisopropylphenyl hydrogen succinate (propofol hemisuccinate), mp 101-102° C.

reactant | Succinic anhydride | 140 mmol, 14 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | 2,6-diisopropylphenol | 112 mmol, 20.8 ml | C(C)(C)C1=C(C(=CC=C1)C(C)C)O | C12H18O
solvent | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
catalyst | dimethylaminopyridine | 0.16 mmol, 0.02 g | CN(C)C1=NC=CC=C1 | C7H10N2
product | 2,6-diisopropylphenyl hydrogen succinate | 25.0 g, 80.2% yield | C(CCC(=O)O)(=O)OC1=C(C=CC=C1C(C)C)C(C)C | C16H22O4
